US08686048B2
Intermediate 64: 3-ethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole
5-Bromoisatin (5 g, 22.12 mmol) was added drop-wise to ethyl magnesium iodide formed from ethyl iodide (14 ml, 176.96 mmol) and magnesium (8.6 g, 176.96 mmol) in Et2O (50 ml) and stirred at RT overnight. Work-up (EtOAc/H2O) after adding aq. 10% NH4Cl solution and purification gave 5-bromo-3-ethyl-3-hydroxyindolin-2-one (1 g). To a solution of this intermediate (1 g, 3.93 mmol) in THF (40 ml) was added a 2M solution borane-dimethyl sulphide in THF (10 ml, 19.65 mmol) and stirred at RT for 3 h. Work up (EtOAc/H2O) and purification using afforded 5-Bromo-3-ethyl indole (800 mg). To a solution of 5-Bromo-3-ethyl indole (800 mg, 3.57 mmol) in dioxane (10 ml) were added bis(pinacolato)diboron (1.078 g, 4.64 mmol), potassium acetate (1.15 g, 11.78 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloro palladium(II).CH2Cl2, degassed for 30 min. and refluxed overnight. Work-up followed by purification afforded title compound (800 mg) as an off-white solid.

reactant | 5-Bromo-3-ethyl indole | 3.57 mmol, 800 mg | BrC=1C=C2C(=CNC2=CC1)CC | C10H10BrN
reactant | bis(pinacolato)diboron | 4.64 mmol, 1.078 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 11.78 mmol, 1.15 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-ethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 800 mg | C(C)C1=CNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C16H22BNO2
